US05703240
2-Methoxy-5-tetrazol-2-yl-benzaldehyde
Potassium carbonate (1.06 g) and methyl iodide (0.5 ml) were added to a solution of 2-hydroxy-5-tetrazol-2-yl-benzaldehyde (930 mg) in dimethylformamide (6 ml) at room temperature. The mixture was stirred for 2 h then evaporated to give an orange solid. This was dissolved in water (40 ml), extracted with dichloromethane (3×30 ml), dried (Na2 SO4) and evaporated. The residue was purified by FCC (dichloromethane) to give the title compound as a yellow solid (423 mg). T.l.c. (Ethyl acetate/cyclohexane(1:1)), Rf 0.44.

reactant | Potassium carbonate | 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | 2-hydroxy-5-tetrazol-2-yl-benzaldehyde | 930 mg | OC1=C(C=O)C=C(C=C1)N1N=CN=N1 | C8H6N4O2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | 2-Methoxy-5-tetrazol-2-yl-benzaldehyde | 423 mg | COC1=C(C=O)C=C(C=C1)N1N=CN=N1 | C9H8N4O2
